US06995263B2
A mixture of 1.9 g (6.456 mmol) of [4-cyclopropyl-2-(4-trifluoromethyl-phenyl)-pyrimidin-5-yl]-methanol and 0.515 ml (7.1 mmol) thionylchloride in 20 ml dichloromethane was stirred for 1 h at RT. The reaction mixture was taken up in ether and washed with sodium bicarbonate solution and water. The ether phase was concentrated under reduced pressure to give 1.97 g of pure 5-chloromethyl-4-cyclopropyl-2-(4-trifluoromethyl-phenyl)-pyrimidine.

reactant | [4-cyclopropyl-2-(4-trifluoromethyl-phenyl)-pyrimidin-5-yl]-methanol | 6.456 mmol, 1.9 g | C1(CC1)C1=NC(=NC=C1CO)C1=CC=C(C=C1)C(F)(F)F | C15H13F3N2O
reactant | thionylchloride | 7.1 mmol, 0.515 ml | S(=O)(Cl)Cl | Cl2OS
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
solvent | ether | CCOCC | C4H10O
product | 5-chloromethyl-4-cyclopropyl-2-(4-trifluoromethyl-phenyl)-pyrimidine | 1.97 g | ClCC=1C(=NC(=NC1)C1=CC=C(C=C1)C(F)(F)F)C1CC1 | C15H12ClF3N2
